US08685970B2
To a solution of 1-bromo-3-(difluoromethyl)benzene (5.0 g, 24.2 mmol) in DMF (30 mL) was added bis(pinacolato)diboron (12.5 g, 50.0 mmol), KOAc (4.9 g, 50.0 mmol) and Pd(dppf)Cl2.CH2Cl2 (0.5 g, 2.4 mmol). The reaction mixture was stirred under nitrogen at 85° C. for 12 hours, then the reaction was cooled to room temperature and water (20 mL) was added. The mixture was extracted with ethyl acetate (3×30 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo, the residue was purified by silica gel column chromatography (petroleum ether:ethyl acetate=150:1) to obtain 2-(3-(difluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (4.5 g, 74% yield).

reactant | 1-bromo-3-(difluoromethyl)benzene | 24.2 mmol, 5.0 g | BrC1=CC(=CC=C1)C(F)F | C7H5BrF2
reactant | bis(pinacolato)diboron | 50.0 mmol, 12.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 50.0 mmol, 4.9 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 2.4 mmol, 0.5 g | C(Cl)Cl | CH2Cl2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 20 mL | O | H2O
product | 2-(3-(difluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.5 g, 74% yield | FC(C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O2
